Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I don't need to be here."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old female ___ senior
with past psychiatric history of depression and anxiety who
presents to the ___ ED via EMS on referral from the student
counseling center due to consuming 4x lorazepam 0.5mg tabs, 16x
sertraline 50mg tabs, cough syrup with codeine, and alcohol in
setting of increased anxiety and passive suicidal ideation. 
Psychiatry was consulted for diagnostic clarification and
treatment recommendation.

On interview, patient states that she is fine and that she
doesn't need to be here. States that she had a final this 
morning
and then felt very sad afterward because she didn't think she 
did
well and it was a class she really needed to do well in. She
started feeling anxious and took medication--4 lorazepam 0.5mg
tabs. States she still felt really anxious and developed a
headache and she wanted "all of the feelings to stop, and I
wasn't thinking." States that she then took about 16 sertraline
50mg tabs. She then had a Red Bull, a spoonful of cough syrup
with codeine, and a few sips of Smirnoff ice. Patient states 
that
she then went to go meet her friends where they were studying.
States that she was feeling really anxious, and asked her friend
to come outside with her. States that began spontaneously
throwing up and shaking. States that then an administrator then
saw her and called her therapist.

Patient states that she took all of the medications because she
wanted the anxiety to stop. States that she was not thinking of
wanting to die. States that she has had thoughts about wanting 
to
die in the past, most recently last semester. States that she 
has
never researched ways to kill herself. Does endorse passive
suicidal ideation currently, and states that she took the pills
with the idea that it would be okay if she didn't wake up. 
States
that her stressor has been school, trying to graduate, is
currently in danger of not graduating. States that her grades 
are
lower than they were in the past, because her classes got harder
and she is more depressed. States she has missed some work 
shifts
as well due to depression.

Endorses worsened depressed mood, difficulty sleeping ___ hours
per night), "nonexistent" appetite with subjective weight loss,
amotivation, difficulty concentrating, and hopelessness
intermittently. Denies anhedonia, states her friends make her
happy. Denies homicidal ideation. Denies auditory or visual
hallucinations. Denies symptoms of mania. Currently active
suicidal ideation or plan, but endorses passive suicidal
ideation.

Collateral from ___, ___:
A ___ was with her and they called to consult with her, thought
that she needed to be sent it. She saw a therapist for one 
intake
a couple of weeks ago right before ___ and was
referred to psychiatry for meds, has seen them once (Dr. 
___.
Patient was at the ___, and ___ ended up being with
her. When the ___ called the on-call clinician, patient was
having an intense panic attack. They also called ___ police
because she was so upset. She wasn't able to be calmed down. She
got on the phone with her, and told the clinician that she 
wanted
to go to a private room before talking about self-harm. She went
into a room and told her that she took several of her
prescriptions, some alcohol, and Tylenol with codeine. She asked
if her intent was to kill herself and she said she didn't know
why but that she was very overwhelmed. She said that she did
vomit a lot after that, was adamant about not going to the
hospital. Case manager: ___ ___ 

Collateral from patient's roommate and best friend:
Patient's friends state that they have known her all ___ years
of college and that she has never seemed this way before. State
that she has been very stressed as well as not eating for the
psat several weeks. State that when out drinking she has been
making comments about not being sure if she can go on, and not
being sure if being alive is worth it. State that they were with
her today when she was in the library and had a panic attack, 
and
that she began spontaneously vomiting (they are not aware of her
overdose). State that has been increasingly depressed since her
dog died one month ago, and is now very stressed about passing
her classes (she has been missing finals) as well as getting a
job after graduation.

ED course:
Patient with stable airway and no evidence of serotonin 
syndrome,
per cardiology. She is being followed for tachycardia (120) and
for development of any QTc prolongation.

 
Past Medical History:
NO MEDICAL HISTORY

PAST PSYCHIATRIC HISTORY:
Diagnoses: anxiety, depression
Hospitalizations: denies
Current treaters and treatment: first saw a psychiatrist 
freshman
year of college at ___, then stopped until one week ago when she
saw Dr. ___ (has seen one time); seeing therapist
___ (has seen one time)
Medication and ECT trials: Lorazepam, sertraline
Self-injury: denies
Suicide attempts: denies
Harm to others: denies
Access to weapons: denies
Trauma: denies sexual physical emotional abuse

 
Social History:
___
Family History:
Brother is depressed.
 
Physical Exam:
*VS:  BP: 128/84 HR: 120 temp: 99 resp: 16  O2 sat: 100% RA

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits

Cognition: 
 Wakefulness/alertness: awake, lying in bed with eyes barely
open, but alert
 *Attention (digit span, MOYB): correctly states MOYB
 *Orientation: AAOx3
 *Memory:   ___ registration, ___ recall
 *Fund of knowledge:  knows current president, as well as 
someone
running for president
 Calculations:  7 quarters in 1.75
 Abstraction: correctly describes "don't judge a book by its
cover"
 *Speech: slow, low volume, unvarying prosody
 *Language: fluent ___
 
Mental Status:
 *Appearance:  young Asian female, extensive acne on face,
tearful
 Behavior: cooperative with interview, limited spontaneous
speech, + psychomotor slowing
 *Mood and Affect: "apathy" affect is dysphoric, congruent,
tearful
 *Thought process / *associations:  linear, goal-directed
 *Thought Content: denies active SI or plan, endorses passive SI
intermittently, denies HI, denies AVH, denies sx of mania
 *Judgment and Insight:  poor/limited

 
Pertinent Results:
___ 08:21PM   ___ PH-7.39 COMMENTS-GREEN TOP
___ 08:21PM   freeCa-1.07*
___ 08:00PM   GLUCOSE-91 UREA N-9 CREAT-0.7 SODIUM-132* 
POTASSIUM-3.4 CHLORIDE-98 TOTAL CO2-20* ANION GAP-17
___ 08:00PM   estGFR-Using this
___ 08:00PM   ALT(SGPT)-13 AST(SGOT)-24 ALK PHOS-48 TOT 
BILI-1.2
___ 08:00PM   ALBUMIN-4.8 CALCIUM-9.3 PHOSPHATE-3.3 
MAGNESIUM-1.8
___ 08:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:00PM URINE  HOURS-RANDOM
___ 08:00PM URINE  HOURS-RANDOM
___ 08:00PM URINE  UCG-NEGATIVE
___ 08:00PM URINE  GR HOLD-HOLD
___ 08:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:00PM   WBC-11.4* RBC-4.33 HGB-13.2 HCT-39.2 MCV-91 
MCH-30.5 MCHC-33.7 RDW-12.3 RDWSD-40.7
___ 08:00PM   NEUTS-83.7* LYMPHS-7.8* MONOS-7.7 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-9.57* AbsLymp-0.89* AbsMono-0.88* 
AbsEos-0.02* AbsBaso-0.03
___ 08:00PM   PLT COUNT-307
___ 08:00PM   ___ PTT-28.1 ___
___ 08:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-SM 

___ 08:00PM URINE  RBC-1 WBC-3 BACTERIA-MANY YEAST-NONE 
EPI-2
___ 08:00PM URINE  HYALINE-1*
___ 08:00PM URINE  MUCOUS-OCC
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout.  She was 
unit-restricted.

LEGAL: ___
PSYCHIATRIC:
#) DEPRESSION:  
Patient is a ___ senior with a past psychiatric 
history of depression and anxiety sent from ___ counseling 
___ after consuming 4 tabs of lorazepam (0.5mg ea), 16 tabs 
of sertraline (50mg ea), cough syrup with codeine, and alcohol. 
She initially endorsed passive SI in the ED, but denies feeling 
suicidal on admission to Deac 4. She reported taking the 
overdose in an attempt to manage anxiety/panic sx felt after 
finishing a final exam she believed she performed poorly on. Her 
home sertraline and lorazepam were discontinued. She was offered 
to start Celexa 20 mg qam, but preferred to discontinue all 
medications and continue therapy.

On initially evaluation by inpatient treatment team, the patient 
somewhat downplayed the significance of the overdose. She denied 
taking the overdose in a suicide attempt, but asserts she 
impulsively took the medications to tame anxiety. She admitted 
this was a "stupid" decision, but sought assistance from friends 
after ingesting the medications. After speaking with her family 
and informing them of the circumstances around her admission, 
patient became appropriately tearful and appeared genuinely 
remorseful for her actions. She acknowledged the seriousness of 
the overdose, and realized hurting her self would cause her 
family pain. Her mood was generally euthymic throughout 
admission, and improved further when she learned she had passed 
the final exam she was concerned about. She was discharged to 
her apartment in preparation to take a flight from ___ that 
evening home to
___, where she would be staying with her parents for the 
next several weeks. Aftercare was arranged for her in ___ 
and included IOP beginning ___. PCP ___ ___ ___s psychiatry and therapy f/u appointments scheduled with 
her treaters at ___ once she returns to school this ___.

MEDICAL:
#) None  

PSYCHOSOCIAL: 
#) GROUPS/MILIEU:  ___ was inconsistent with her group 
attendance. She initially spent the majority of her time in her 
room, but eventually began to socialize with peers in her age 
group. When visible on the unit, she interacted well with 
others.  There were not acute safety concerns or behavioral 
issues while on the unit. 

#) COLLATERAL CONTACTS:
___ spoke with ___ (clinical case ___) at ___ 
___. She
states that patient initially started treatment around 
___,  missed several appointments and the counseling 
center was worried about her. Patient had reported panic 
attacks, fixation on death, impulsivity and suicidal ideation.   
 

#) FAMILY INVOLVEMENT:   
___ spoke with patient's family, who indicated they wanted her 
home for ___, and that she would be well care for and 
attended while in ___. They also ensured treatment team they 
would be actively involved with helping ___ to keep aftercare 
plans.

#INTERVENTIONS
- Home Zoloft and Ativan were discontinued given overdose. We 
recommended starting Celexa for depression, but patient refused 
given recent overdose and preference for therapy over 
medications. 
- We arranged therapy and psychiatric aftercare for patient.

INFORMED CONSENT: 
No new psychiatric medications were started this admission

#RISK ASSESSMENT
Low imminent risk of harm/violence to self/others.

CHRONIC/STATIC RF
- Age
- Depression

MODIFIABLE RF
- Depression/anxiety and impulsivity: we referred patient to IOP 
and scheduled outpatient therapy/psychiatry appointments.

PROTECTIVE FACTORS
-Intelligence 
-Family support 
-stable housing 
-outpatient treaters
-no active substance abuse 

#PROGNOSIS
Good, given few chronic risk factors and protective factors as 
outlined above.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Lorazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression and anxiety

 
Discharge Condition:
*Appearance:  young Asian female, acne on face, dressed in
pajamas
*Behavior: cooperative with interview, 
*Speech: normal rate and volume
*Language: fluent ___
*Mood: 'good'
*Affect: euthymic
*Thought process / *associations:  linear, goal-directed
*Thought Content: denies active or passive SI, denies HI, denies
AVH,
*Judgment and Insight: fair/fair
* Ambulatory

 
Discharge Instructions:
You were hospitalized at ___ for medication overdose.  We 
discontinued your medications, and you preferred continued 
therapy to medication management of anxiety/depression. Yare now 
ready for discharge and continued treatment with your outpatient 
providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please practice safe sex.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___